US07202245B2
4-[2-(Benzothiazol-2-ylamino)-ethylamino]-8-chloro-2H-[1,2,4]triazolo[4,3-a]quinoxalin-1-one
To a solution of 100 mg of 4,8-dichloro-1-methoxy-[1,2,4]triazolo[4,3-a]quinoxaline and 109 mg of triethylamine in DMF (2.0 mL) was added 86 mg of N1-benzothiazol-2-yl-ethane-1,2-diamine. This solution was stirred at room temperature for 18 hrs. and then diluted with 10% IPA/methylene chloride, and washed with water and brine. The extracts were dried over sodium sulfate, filtered, and concentrated. The residue was separated by silica gel chromatography to provide a yellow solid. This solid was dissolved in a 1:1.5 mixture of 48% HBr/AcOH and refluxed for 2 hrs. The reaction mixture was concentrated and the residue was triturated with IPE to provide the hydrobromide salt of the title compound as a yellow solid. MS (M+H)+=412.2.

reactant | 4,8-dichloro-1-methoxy-[1,2,4]triazolo[4,3-a]quinoxaline | 100 mg | ClC=1C=2N(C3=CC(=CC=C3N1)Cl)C(=NN2)OC | C10H6Cl2N4O
reactant | triethylamine | 109 mg | C(C)N(CC)CC | C6H15N
reactant | N1-benzothiazol-2-yl-ethane-1,2-diamine | 86 mg | S1C(=NC2=C1C=CC=C2)NCCN | C9H11N3S
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
solvent | IPA methylene chloride | CC(C)O.C(Cl)Cl
solvent | HBr AcOH | Br.CC(=O)O
product | 4-[2-(Benzothiazol-2-ylamino)-ethylamino]-8-chloro-2H-[1,2,4]triazolo[4,3-a]quinoxalin-1-one | S1C(=NC2=C1C=CC=C2)NCCNC=2C=1N(C3=CC(=CC=C3N2)Cl)C(NN1)=O | C18H14ClN7OS
